US07378420B2
A. Synthesis of 1-Methylpiperidin-4-yl phenyl methanone
To a cooled suspension of anhydrous aluminum chloride (20 g, 75 mmol) in benzene 30 ml at 0° C. was added 1-methylpiperidine-4-carboxylic acid chloride in small portions and the resulted mixture was refluxed for 3 hours. The reaction mixture was cooled down, poured-into ice water. The organic phase was discarded. The aqueous solution was washed with 2×50 ml ethyl ether, basified with potassium hydroxide pellet slowly to pH >10 and extracted with ethyl ether 4×50 ml. The combined ethereal solution was dried over sodium sulfate and concentrated to give 9.5 g of the title compound in 84% yield.

reactant | aluminum chloride | 75 mmol, 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methylpiperidine-4-carboxylic acid chloride | CN1CCC(CC1)C(=O)Cl | C7H12ClNO
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-Methylpiperidin-4-yl phenyl methanone | 9.5 g, 84% yield | CN1CCC(CC1)C(=O)C1=CC=CC=C1 | C13H17NO
